US04948804
1-benzoyl 5-n-hexyloxy pyrrolidin-2-one
16 cm3 of a 1.6M solution of butyllithium in hexane is added at -70° C. to 4.5 g of 5-n-hexyloxy pyrrolidin-2-one in solution in 130 cm3 of anhydrous tetrahydrofuran. Agitation is carried out for 20 minutes at -70° C. and under the same conditions a solution of 3.4 g of benzoyl chloride in 20 cm3 of tetrahydrofuran is added. After allowing to return to ambient temperature and concentration under reduced pressure, the residue is chromatographed on silica (eluent: toluene-ethyl acetate 8-2). 3.3 g of the product sought is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-n-hexyloxy pyrrolidin-2-one | C(CCCCC)OC1CCC(N1)=O | C10H19NO2
reactant | benzoyl chloride | 3.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 130 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-n-hexyloxy pyrrolidin-2-one | 3.3 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OCCCCCC)=O | C17H23NO3
